US08106190B2
After dissolving N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-(piperidin-4-ylamino)-4-(trifluoromethyl)benzamide (200 mg), cyclopropanecarbaldehyde (0.10 mL) and acetic acid (0.026 ml) in 1,2-dichloroethane (4 ml), sodium triacetoxyborohydride (285 mg) was added thereto. After stirring at room temperature for 2 hours, 1 M sodium hydroxide aqueous solution was added thereto, followed by extraction with chloroform. After drying the organic layer with sodium sulfate, the solution was concentrated under a reduced pressure and the resulting residue was purified by silica gel column chromatography (chloroform:methanol:aqueous ammonia, 1:0:0 to 90:9:1). By treating the resulting free base with 4 M hydrogen chloride/ethyl acetate, 2-{[1-(cyclopropylmethyl)piperidin-4-yl]amino}-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-4-(trifluoromethyl)benzamide hydrochloride (199 mg) was obtained as an amorphous.

reactant | N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-(piperidin-4-ylamino)-4-(trifluoromethyl)benzamide | 200 mg | CN1C(CCC2=CC=C(C=C12)NC(C1=C(C=C(C=C1)C(F)(F)F)NC1CCNCC1)=O)=O | C23H25F3N4O2
reactant | cyclopropanecarbaldehyde | 0.10 mL | C1(CC1)C=O | C4H6O
reactant | sodium triacetoxyborohydride | 285 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.026 ml | C(C)(=O)O | C2H4O2
product | 2-{[1-(cyclopropylmethyl)piperidin-4-yl]amino}-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-4-(trifluoromethyl)benzamide hydrochloride | 199 mg | Cl.C1(CC1)CN1CCC(CC1)NC1=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=CC(=C1)C(F)(F)F | InChI=1S/C27H31F3N4O2.ClH/c1-33-24-15-21(7-4-18(24)5-9-25(33)35)32-26(36)22-8-6-19(27(28,29)30)14-23(22)31-20-10-12-34(13-11-20)16-17-2-3-17;/h4,6-8,14-15,17,20,31H,2-3,5,9-13,16H2,1H3,(H,32,36);1H
